US04857644
1-(3-Chlorophenyl)-4-(9H-fluoren-2-yl-sulfonyl)piperazine, hydrochloride
The title compound is prepared by adding to a stirred solution of 2-fluorenesulfonylchloride (4 g, 0.015 mol) in 50 mL of methylene chloride, 1-(3-chlorophenyl)piperazine (3 g, 0.013 mol) and triethylamine (6 mL). The solution is stirred overnight and the methylene chloride layer is washed with water and dried over anhydrous Na2SO4. Evaporation of the methylene chloride under reduced pressure affords crude product which is purified as in Example 2 and converted to the hydrochloride salt; m.p. 219°-221° C. (35% yield).

reactant | 2-fluorenesulfonylchloride | 0.015 mol, 4 g | C1=C(C=CC=2C3=CC=CC=C3CC12)S(=O)(=O)Cl | C13H9ClO2S
reactant | 1-(3-chlorophenyl)piperazine | 0.013 mol, 3 g | ClC=1C=C(C=CC1)N1CCNCC1 | C10H13ClN2
reactant | triethylamine | 6 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(3-Chlorophenyl)-4-(9H-fluoren-2-yl-sulfonyl)piperazine, hydrochloride | 35% yield | Cl.ClC=1C=C(C=CC1)N1CCN(CC1)S(=O)(=O)C1=CC=2CC3=CC=CC=C3C2C=C1 | InChI=1S/C23H21ClN2O2S.ClH/c24-19-5-3-6-20(16-19)25-10-12-26(13-11-25)29(27,28)21-8-9-23-18(15-21)14-17-4-1-2-7-22(17)23;/h1-9,15-16H,10-14H2;1H
